US06541481B2
4-(4-Chloro-quinazolin-6-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (1.12 g, 5.35 mmol), 4-chloro-6-iodoquinazoline (1.35 g, 4.65 mmol), dichlorobis(triphenylphosphine) palladium(II) (0.16 g, 0.23 mmol), copper(I) iodide (0.044 g, 0.23 mmol), and diisopropylamine (0.47 g, 4.65 mmol) in anhydrous THF (20 mL) was stirred at room temperature under nitrogen for 2 hours. After concentration, the residue was dissolved in CH2Cl2 (100 mL), washed with aqueous NH4Cl and brine, dried over sodium sulfate, and concentrated to give the crude product as brown oil. Purification by silica gel column using 20% EtOAc in hexane afforded 1.63 g (94%) of sticky, yellow oil: 1H NMR (CDCl3) δ 1.45 (s, 9H), 1.67—1.75 (m, 2H), 1.87—1.92 (m, 2H), 2.84 (m, 1H), 3.20—3.26 (m, 2H), 3.78 (br d, 2H), 7.88 (dd, 1H), 7.97 (d, 1H), 8.26 (d, 1H), 9.00 (s, 1H).

reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 5.35 mmol, 1.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
reactant | 4-chloro-6-iodoquinazoline | 4.65 mmol, 1.35 g | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
reactant | diisopropylamine | 4.65 mmol, 0.47 g | C(C)(C)NC(C)C | C6H15N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 0.23 mmol, 0.044 g | [Cu]I
product | 4-(4-Chloro-quinazolin-6-ylethynyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C#CC=1C=C2C(=NC=NC2=CC1)Cl | C20H22ClN3O2
